US07838674B2
20.a: (3-Amino-oxetan-3-yl)-acetic acid methyl ester
Oxetan-3-ylidene-acetic acid methyl ester (Angewandte Chemie, International Edition (2006), 45(46), 7736-7739) ester (1.5 g; 11.72 mmol) in EtOH (20 ml) and liquid NH3 (11 g) are heated in a steel cylinder at 800 C for 5 hours. Evaporation of the solvent delivers the title compound as yellow resin. 1H-NMR (400 MHz; DMSO-d6): 4.42 (d, 2H); 4.34 (d, 2H); 3.61 (s, 3H); 2.77 (s, 2H); 2.33 (bs, 2H). MS (m/z) ES+: 145 (MH+; 15); 96 (100).

reactant | Oxetan-3-ylidene-acetic acid methyl ester | COC(C=C1COC1)=O | C6H8O3
reactant | NH3 | 11 g | N | H3N
solvent | EtOH | 20 ml | CCO | C2H6O
product | (3-Amino-oxetan-3-yl)-acetic acid methyl ester | COC(CC1(COC1)N)=O | C6H11NO3
